US07211440B2
1-(2-Benzofuryl)-4,4,5,5,5-pentafluoro-1,3-pentanedione
The compound was synthesized according to example 1 using 2-acetyl-benzofuran and ethyl pentafluoropropionate as starting materials. The product was crystallized from petroleum ether. 1H NMR (CDCl3): 6.75 (s, 1 H); 7.35 (ddd, 1 H J=0.9 & 7.1 & 7.9 Hz); 7.51 (ddd, 1 H, J=1.3 & 7.1 & 8.4 Hz); 7.58–7.60 (m, 1 H); 7.67 (d, 1 H, J=0.9 Hz); 7.71–7.73 (m, 1 H). IR (film): 1614 (C═O); 1211, 1200 (C—F).

reactant | 2-acetyl-benzofuran | C(C)(=O)C=1OC2=C(C1)C=CC=C2 | C10H8O2
reactant | ethyl pentafluoropropionate | FC(C(C(=O)OCC)(F)F)(F)F | C5H5F5O2
product | 1-(2-Benzofuryl)-4,4,5,5,5-pentafluoro-1,3-pentanedione | O1C(=CC2=C1C=CC=C2)C(CC(C(C(F)(F)F)(F)F)=O)=O | C13H7F5O3
